* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP151-1.5.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 5
Rload OUT 0 15
X§U1 IN 0 IN MP_01 OUT ADP151-x.x T=500K
C1 OUT 0 1µ
.tran 500u startup
.lib ADP151-x.x.sub
.backanno
.end
